US05847122
To a mixture of (2S,3R)-3-(4-methylphenyl)-2,3-epoxypropionic acid methyl ester (3.84 g) and methanol (25 ml) is added dropwise a solution of 28% aqueous ammonia (6.1 g) in methanol (10 ml) under ice-cooling. The reaction mixture is gradually warmed to room temperature, and stirred for two hours, and further stirred for one hour under ice-cooling. The precipitated crystals are collected by filtration, washed, and dried at 50° C. to give (2S,3R)-3-(4-methylphenyl)-2,3-epoxypropionamide (2.71 g).

reactant | (2S,3R)-3-(4-methylphenyl)-2,3-epoxypropionic acid methyl ester | 3.84 g | COC([C@@H]1[C@H](O1)C1=CC=C(C=C1)C)=O | C11H12O3
reactant | ammonia | 6.1 g | N | H3N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | (2S,3R)-3-(4-methylphenyl)-2,3-epoxypropionamide | 2.71 g | CC1=CC=C(C=C1)[C@@H]1[C@@H](C(=O)N)O1 | C10H11NO2
